US05888941
A solution of carbethoxymalonaldehyde (0.8 g, 5.55 mmol; obtained according to Panizzi, L. Gazz.Chim.Ital., 1946, 76, 56) in ethanol (25 mL) was treated with 4-chlorophenylhydrazine hydrochloride (1.0 g, 5.55 mmol) at reflux for 5 h. The resulting reddish mixture was concentrated to an oil that was purified by flash chromatography to give ethyl 1-(4-chlorophenyl)-1H-pyrazole-4-carboxylate (0.68 g, 49%) as a white solid: mp 127°-128° C.; 1H NMR (80 MHz, CDCl3) δ (TMS) 8.37 (s, 1H, pyrazole), 8.09 (s, 1H, pyrazole), 7.67 (dt, Jt =2, Jd =9, 2H, arom), 7.44 (dt,Jt =2, Jd =9, 2H, arom), 4.35 (q, J=7, 2H, OCH2), 1.38 (t, J=7, 3H, OCH2CH3). Analysis calculated for C12H11ClN2O2 : C 57.50; H 4.42; N 11.17. Found: C 57.49; H 4.46; N 11.16.

reactant | carbethoxymalonaldehyde | 5.55 mmol, 0.8 g | C(=O)(OCC)C(C=O)C=O | C6H8O4
reactant | 4-chlorophenylhydrazine hydrochloride | 5.55 mmol, 1.0 g | Cl.ClC1=CC=C(C=C1)NN
solvent | ethanol | 25 mL | C(C)O | C2H6O
product | ethyl 1-(4-chlorophenyl)-1H-pyrazole-4-carboxylate | 0.68 g, 49% | ClC1=CC=C(C=C1)N1N=CC(=C1)C(=O)OCC | C12H11ClN2O2
